US07915291B2
Preparation of 4H-[1,3]dioxino[5,4-c]isoquinolin P2* derivatives
Reaction Conditions: (1) MeOK in DMPU; (2) MCPBA in CH2Cl2; (3) POCl3 in DCE; (4) BBr3 in CH2Cl2; (5) HCHO solution in 40% H2SO4 by procedure of Synthesis of 1,3-oxazino[5,6-c]isoquinolines and related compounds. Miyoko Toyama and Hirotaka Otomasu, Chem. Pharm. Bull. 33(12), 5543-5546, 1985; (6) Fluororination procedure by Uchibori, Y.; Umeno, M.; Yoshiokai, H.; Heterocycles, 1992, 34 (8), 1507-1510

reactant | MeOK | CO[K]
reactant | MCPBA | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | HCHO | C=O | CH2O
reactant | DMPU | CN1CCCN(C1=O)C | C6H12N2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DCE | ClCCCl | C2H4Cl2
solvent | H2SO4 | OS(=O)(=O)O | H2O4S
product | 4H-[1,3]dioxino[5,4-c]isoquinolin | O1COCC=2N=CC=3C=CC=CC3C21 | C11H9NO2
